US07462617B2
(2-Isopropyl-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
To a solution of (2-Isopropenyl-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone, (Example 44, 20 mg, 0.0442 mmol) in Ethylacetate (1 ml) was added Pd/C 10% (1 mg). The mixture was hydrogenated at rt for 1 hour. Then, Pd/C 10% (10 mg) and Ethylacetate (5mL) were added and the mixture was hydrogenated at reflux temperature for 1 hour. The mixture was diluted with MeCl2 ,filtered and the filtrate was concentrated in vacuo. The crude mixture was purified on SiO2 Eluent: Heptane/AcOEt 0% to 40% (20 minutes) to provide the title compound (14 mg, 70%, yellow solid); M+H=455.2

reactant | (2-Isopropenyl-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | C(=C)(C)C1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H23F3N2O3S
solvent | Ethylacetate | 1 ml | C(C)OC(C)=O | C4H8O2
solvent | MeCl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 1 mg | [Pd] | Pd
catalyst | Pd/C | 10 mg | [Pd] | Pd
solvent | Ethylacetate | 5mL | C(C)OC(C)=O | C4H8O2
product | (2-Isopropyl-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 14 mg, 70% | C(C)(C)C1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H25F3N2O3S
